US04086221
BOC-Thr(Bzl)-Tyr(Bzl)-Pro-OBzl (14.2 g.) was dissolved in THF (30 ml.), and 1 N NaOH solution (23 ml.) was added dropwise for 15 minutes at -5° C. After stirring for 4 hours at room temperature, the pH was adjusted to 7 with 1 N HCl addition, then the mixture was concentrated in vacuo to remove THF. Water was added to the aqueous layer and after washing with ethyl ether, the pH of the water layer was adjusted to pH 2 by adding 1 N HCl, then extracted twice with ethyl acetate. The ethyl acetate layer was washed with water and dried by anhydrous magnesium sulfate and concentrated in vacuo. The residue was crystallized from ethyl ether - n-hexane to obtain crude material (12 g.). This crude material was dissolved in ethyl acetate, ethyl ether added thereto and the solution was set aside to crystallize by gradual addition of n-hexane to give BOC-Thr(Bzl)-Tyr(Bzl)-Pro-OH (10.5 g., Yield: 84%, m.p.: 136° - 138° C.). TLC: one spot, Rf1 = 0.68, Rf5 = 0.63.

reactant | BOC-Thr(Bzl)-Tyr(Bzl)-Pro-OBzl | 14.2 g | N([C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C44H51N3O8
reactant | NaOH | 1 N, 23 ml | [OH-].[Na+]
reactant | HCl | 1 N | Cl | ClH
reactant | ethyl ether | C(C)OCC | C4H10O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | BOC-Thr(Bzl)-Tyr(Bzl)-Pro-OH | 10.5 g, Yield: 84% | N([C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)N1[C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C37H45N3O8
